US07790747B2
Following general procedure D: a solution of 6-chloro-N-(3-{4-[(R)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1-phenyl-ethylamino]-piperidin-1-yl}-butyl)-2,4-dimethyl-nicotinamide (194 mg, 0.33 mmol), hydrazine hydrate (0.05 ml ml, 0.1 mmol) in EtOH (2 ml) was stirred at rt overnight. Purification of the crude product by chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 100:10:2) afforded N-{3-[4-((R)-2-Amino-1-phenyl-ethylamino)-piperidin-1-yl]-butyl}-6-chloro-2,4-dimethyl-nicotinamide (102 mg, 67%).

reactant | 6-chloro-N-(3-{4-[(R)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1-phenyl-ethylamino]-piperidin-1-yl}-butyl)-2,4-dimethyl-nicotinamide | 0.33 mmol, 194 mg | ClC1=NC(=C(C(=O)NCCC(C)N2CCC(CC2)N[C@@H](CN2C(C3=CC=CC=C3C2=O)=O)C2=CC=CC=C2)C(=C1)C)C | C33H38ClN5O3
reactant | hydrazine hydrate | 0.1 mmol, 0.05 ml | O.NN
solvent | EtOH | 2 ml | CCO | C2H6O
product | N-{3-[4-((R)-2-Amino-1-phenyl-ethylamino)-piperidin-1-yl]-butyl}-6-chloro-2,4-dimethyl-nicotinamide | 102 mg, 67% | NC[C@@H](C1=CC=CC=C1)NC1CCN(CC1)C(CCNC(C1=C(N=C(C=C1C)Cl)C)=O)C | C25H36ClN5O
